US07238808B2
Step 5) 8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine
To a mixture of 3-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyridin-2-ylamine (12.77 g, 42 mmol) and NaHCO3 (5.96 g, 71 mmol) in EtOH (300 mL) was added chloracetaldehyde solution 55% in water (22 mL, 188 mmol), then refluxed overnight. The reaction mixture was concentrated and purified by column chromatography (CH2Cl2/Et2O 1:1) to give the product as a white crystalline solid (9.6 g, 69%). MS (ISP) 331.1 [(M+H)+].

reactant | 3-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyridin-2-ylamine | 42 mmol, 12.77 g | FC(C=1C(=NC=C(C1)C1=CC=C(C=C1)C(F)(F)F)N)(F)F | C13H8F6N2
reactant | NaHCO3 | 71 mmol, 5.96 g | C(=O)(O)[O-].[Na+]
reactant | chloracetaldehyde | ClCC=O | C2H3ClO
reactant | water | 188 mmol, 22 mL | O | H2O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 9.6 g, 69% | FC(C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C=CN2)(F)F | C15H8F6N2
